US04137273
Triphenylphosphite benzoylchloride (10 g.) is mixed with 1.9 g. of 6-methyl-5-octen-2-ol and kept at room temperature overnight. The crude product is washed with 2N sodium hydroxide and water and dried to yield 2-chloro-6-methyl-5-octene.

reactant | Triphenylphosphite benzoylchloride | 10 g | C(C1=CC=CC=C1)(=O)Cl.C1(=CC=CC=C1)OP(OC1=CC=CC=C1)OC1=CC=CC=C1
reactant | 6-methyl-5-octen-2-ol | CC(=CCCC(C)O)CC | C9H18O
product | 2-chloro-6-methyl-5-octene | ClC(C)CCC=C(CC)C | C9H17Cl
